US06822069B2
(2) Synthesis of 2,3-diphenyl-5-aminoquinoxaline
1.04 g of 2,3-diphenyl-5-nitroquinoxaline was dissolved in 30 g of dioxane, then the reaction system was flushed with argon, and 0.5 g of Pd/C (anhydrous) was added to the reaction mixture. After the reaction system was again flushed with argon sufficiently, hydrogen was added thereto, and reaction was allowed at room temperature for 30 hr. After the reaction was over, filtration was conducted, the reaction solvent was removed, and the reaction product was separated and purified on a silica gel column (ethyl acetate:hexane=1:3).

reactant | 2,3-diphenyl-5-nitroquinoxaline | 1.04 g | C1(=CC=CC=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=CC=C1)[N+](=O)[O-] | C20H13N3O2
solvent | dioxane | 30 g | O1CCOCC1 | C4H8O2
product | 2,3-diphenyl-5-aminoquinoxaline | C1(=CC=CC=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=CC=C1)N | C20H15N3
